US09382188B2
step 5) 1-((2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)methyl)cyclobutanecarbonitrile
To a solution of 1-((4-((tert-butyl(dimethyl)silyl)oxy)-2′-fluoro-5′-methoxybiphenyl-2-yl)methyl)cyclobutanecarbonitrile (116 mg) in THF (5 mL) was added a solution (1 M, 0.54 mL) of tetrabutylammonium fluoride in THF, and the mixture was stirred at room temperature for 15 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (76 mg) as a colorless oil.

reactant | 1-((4-((tert-butyl(dimethyl)silyl)oxy)-2′-fluoro-5′-methoxybiphenyl-2-yl)methyl)cyclobutanecarbonitrile | 116 mg | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC1(CCC1)C#N | C25H32FNO2Si
reactant | tetrabutylammonium fluoride | 1 M, 0.54 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-((2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)methyl)cyclobutanecarbonitrile | 76 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)CC1(CCC1)C#N | C19H18FNO2
